US05034417
A mixture of 5'-acetyl-2'-(2,4-difluorophenylthio)methanesulfonanilide (1 g) and nitric acid (248 mg) in acetic acid (5 ml) was stirred at 80° C. for 1 hour. The reaction mixture was evaporated to dryness. The residue was washed with ethanol to give yellow crystals of 5'-acetyl-2'-(2,4-difluorophenylthio)-4'-nitromethanesulfonanilide (0.96 g).

reactant | 5'-acetyl-2'-(2,4-difluorophenylthio)methanesulfonanilide | 1 g | C(C)(=O)C=1C=CC(=C(NS(=O)(=O)C)C1)SC1=C(C=C(C=C1)F)F | C15H13F2NO3S2
reactant | nitric acid | 248 mg | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 5'-acetyl-2'-(2,4-difluorophenylthio)-4'-nitromethanesulfonanilide | 0.96 g | C(C)(=O)C=1C(=CC(=C(NS(=O)(=O)C)C1)SC1=C(C=C(C=C1)F)F)[N+](=O)[O-] | C15H12F2N2O5S2
